US06403595B1
To a solution of 1,4-dioxa-8-azaspiro[4,5]decane (9.02 g) and diisopropylethylamine (9.77 g) in ethanol (30 ml) was added 4,6-dichloropyrimidine (9.88 g), and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated, and the residue was diluted with dichloromethane (150 ml). The mixture was washed with 0.3N sodium hydroxide solution and saturated brine, dried and concentrated, and the residue was crystallized from diethylether to give colorless crystals of 8-(6-chloropyrimidine-4-yl)-1,4-dioxa-8-azaspiro[4,5]decane (15.84 g).

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 9.02 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | diisopropylethylamine | 9.77 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,6-dichloropyrimidine | 9.88 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-(6-chloropyrimidine-4-yl)-1,4-dioxa-8-azaspiro[4,5]decane | 15.84 g | ClC1=CC(=NC=N1)N1CCC2(OCCO2)CC1 | C11H14ClN3O2
